US09255327B2
Preparation of Bis(1,4-di-tert-butyl-1,3-diazabutadienyl)chromium(II) (1)
A 100 mL Schlenk flask, equipped with a magnetic stir bar and a rubber septum, was charged with 1,4-di-tert-butyl-1,3-diazabutadiene (1.000 g, 5.94 mmol) and tetrahydrofuran (20 mL). To this stirred solution at ambient temperature was slowly added freshly cut lithium metal (0.042 g, 6.000 mmol) and the resultant dark brown solution was stirred for 6 h. This solution was then added dropwise by cannula over a 30 min period to a stirred suspension of anhydrous chromium(II) chloride (0.365 g, 2.970 mmol) in tetrahydrofuran (40 mL). The resultant deep purple solution was stirred for 6 h at ambient temperature. The volatile components were then removed under reduced pressure and the resultant dark purple powder was dissolved in toluene (50 mL). The solution was filtered through a 1-cm pad of Celite on a coarse glass frit, and toluene was then removed under reduced pressure. Dark purple crystals of 1 were obtained by sublimation at 85° C./0.05 Torr (0.442 g, 38%): mp 95-97° C.; IR (Nujol, cm−1) 1704 (w), 1628 (w), 1538 (w), 1246 (m), 1209 (s), 1132 (m), 1104 (m), 1034 (m); μeff=2.83 and 2.84 BM in the solid state and in benzene solution, respectively. Anal. Calcd for C20H40CrN4: C, 61.82; H, 10.38; N, 14.42. Found: C, 61.71; H, 10.06; N, 14.37.

reactant | 1,4-di-tert-butyl-1,3-diazabutadiene | 5.94 mmol, 1.000 g | C(C)(C)(C)N=CN=CC(C)(C)C | C10H20N2
reactant | lithium | 6.000 mmol, 0.042 g | [Li] | Li
reactant | chromium(II) chloride | 2.970 mmol, 0.365 g | [Cl-].[Cr+2].[Cl-]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Bis(1,4-di-tert-butyl-1,3-diazabutadienyl)chromium(II) | C(C)(C)(C)N=C(N=CC(C)(C)C)[Cr]C(=NC(C)(C)C)N=CC(C)(C)C | InChI=1S/2C10H19N2.Cr/c2*1-9(2,3)7-11-8-12-10(4,5)6;/h2*7H,1-6H3;
